US07678783B2
Tert-butyl 3-({[2-[(tert-butoxycarbonyl)amino]-3-(3-{3-[(tert-butoxycarbonyl)amino]-3-phenylpropyl}phenyl)-2-methylpropanoyl]oxy}methyl)-5-[(methylsulfonyl)(propyl)amino]benzoate (0.386 g, 0.461 mmol) was taken up in 2.0 mL HCl in dioxane (2.00 mL, 8.01 mmol, 4.0M solution). After 16 hr., the reaction was concentrated in vacuo, taken up in dichloromethane, and concentrated again (×2) to give 3-[({2-amino-3-[3-(3-amino-3-phenylpropyl)phenyl]-2-methylpropanoyl}oxy)methyl]-5-[(methylsulfonyl)(propyl)amino]benzoic acid dihydrochloride as a white solid.

reactant | Tert-butyl 3-({[2-[(tert-butoxycarbonyl)amino]-3-(3-{3-[(tert-butoxycarbonyl)amino]-3-phenylpropyl}phenyl)-2-methylpropanoyl]oxy}methyl)-5-[(methylsulfonyl)(propyl)amino]benzoate | 0.461 mmol, 0.386 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC=1C=C(C(=O)OC(C)(C)C)C=C(C1)N(CCC)S(=O)(=O)C)(CC1=CC(=CC=C1)CCC(C1=CC=CC=C1)NC(=O)OC(C)(C)C)C | C45H63N3O10S
reactant | dioxane | 8.01 mmol, 4.0M, 2.00 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 2.0 mL | Cl | ClH
product | 3-[({2-amino-3-[3-(3-amino-3-phenylpropyl)phenyl]-2-methylpropanoyl}oxy)methyl]-5-[(methylsulfonyl)(propyl)amino]benzoic acid dihydrochloride | Cl.Cl.NC(C(=O)OCC=1C=C(C(=O)O)C=C(C1)N(CCC)S(=O)(=O)C)(CC1=CC(=CC=C1)CCC(C1=CC=CC=C1)N)C | InChI=1S/C31H39N3O6S.2ClH/c1-4-15-34(41(3,38)39)27-18-24(17-26(19-27)29(35)36)21-40-30(37)31(2,33)20-23-10-8-9-22(16-23)13-14-28(32)25-11-6-5-7-12-25;;/h5-12,16-19,28H,4,13-15,20-21,32-33H2,1-3H3,(H,35,36);2*1H
